US07125881B2
(i) 4-(5-Chloro-2,6-difluoropyrimidin-4-yl)morpholine
Morpholine (0.774 mg) was added to a solution of 5-chloro-2,4,6-trifluoropyrimidine (1.5 g), N,N-diisopropylethylamine (1.15 g) in 1,4-dioxane (30 ml) and stirred at room temperature for 16 h. The mixture was partitioned between ethyl acetate and water, the organic layer dried (MgSO4) and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with 8% ethyl acetate in isohexane. Yield 0.88 g

reactant | Morpholine | 0.774 mg | N1CCOCC1 | C4H9NO
reactant | 5-chloro-2,4,6-trifluoropyrimidine | 1.5 g | ClC=1C(=NC(=NC1F)F)F | C4ClF3N2
reactant | N,N-diisopropylethylamine | 1.15 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-(5-Chloro-2,6-difluoropyrimidin-4-yl)morpholine | ClC=1C(=NC(=NC1F)F)N1CCOCC1 | C8H8ClF2N3O
